US06432993B1
t-Butyl N-[5-(4-benzyloxyphenoxy)-2-nitrophenyl]-N-methylcarbamate
By using 1.60 g of 4-benzyloxyphenol, 2.29 g of t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate, 0.35 g of sodium hydride (55% by weight) and 20 ml of anhydrous N,N-dimethylformamide, reaction and purification were carried out in a similar manner to that described in Reference Example 6, whereby 3.33 g of the title compound were obtained.

reactant | 4-benzyloxyphenol | 1.60 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.29 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.35 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(4-benzyloxyphenoxy)-2-nitrophenyl]-N-methylcarbamate | 3.33 g | C(C1=CC=CC=C1)OC1=CC=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1 | C25H26N2O6
